Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
Suicidal Statements
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Briefly, ___ is a ___ year old ___ student with
psychiatric history of ADHD and medical history of asthma who
presented to the ED with police after ___ called ___
due to concern for suicidal ideation in the setting of their
recent ___. Psychiatry is consulted for safety assessment. 

Initial interview is very limited due to patient intoxication 
and
limited cooperation. He reports that he found out that his
girlfriend of ___ years, ___, was cheating on him when he got a
picture of her in bed with another man and a woman while she was
on ___ break in ___ this past week. He states that she 
has
been his primary support and the person that he trusts most in
the world, and that they have been living together for ___
years, but now he feels that it is completely over, and he was
packing up her things to kick her out when the police came. When
asked how he is feeling about all this, patient states "like
anyone who just had a breakup" and when asked if he was feeling
suicidal, he responded "has anyone in this situation felt that
way?" and when I replied "sometimes" he nodded, and said "well
then." He was evasive when asked about plan and intent, saying
"as an ___ I've thought of lots of ways" but declines to
elaborate.

Patient seen later when clinically sober. See also collateral
note with information from girlfriend which is concerning.

On ___, patient is extremely irritable and
uncooperative. Continues to be evasive when asked about recent
suicidal ideation, and when asked about the noose that per BPD
was seen in his apartment, states "and they're qualified right,
their freaking geniuses." States that he is frustrated because 
he
wants to leave the hospital. When told that his girlfriend was
worried about him, he stated that he had wanted her to move out
for two and a half years because she has a mental illness and
that "there have been domestic violence things against her," and
yelled that he was right to be mad when she had gone to ___
and he was trapped in ___ for ___ break, and then says, 
"My
dog died, and I'm stuck here, of course I'm upset." When asked
about his idea that he would die at ___, states, "Of course I
think that, I'm from ___. My brother could die any day, do
you know how many times he's been shot. My sister could die
anytime." When asked if he still believes that about himself, he
said yes."

On admission interview, patient is minimizing. States that he 
and
his now ___ of ___ years have been "Playing these
childish games for years." He states that it started again on
___, patient received a snap chat of his ex with a 
male
and a female in a bed, clothed, with the caption "Foot jobs and
money." Patient became distressed, confronted the ___,
and she stated it was all a joke. Patient then came up with a 
plan to get back at his ex by ignoring her calls and texts for a
couple of days. One the ___ he called her while she was on
___ on ___ break and told her he was suicidal. Patient
states that she, "Called my bluff," and called the police, and
now I'm here. Patient denies current suicidal ideation, and
denies ever having suicidal ideation. He denies any past suicide
attempts. Denies anxiety, then states he does have some before
exam, and denied anxiety at time of exam. Denies depressive
symptoms, including changes in sleep, motivation, concentration,
appetite. Denies any symptoms of psychosis, such as A/V HA,
paranoia, TI, TB, and IOR. 

When confronted with why he had a note and rope in the room, he
stated, "I was caught up in the headgames," and provides no
further explanation. 

Reports should he have SI or HI, he is able to come to the 
staff,
instead of acting on impulses. Endorses feeling safe on the 
unit.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations: Denies
Current treaters and treatment: Denies
Medication and ECT trials: Previously on stimulants for ADHD
___: Denies
Harm to others: "Anger issues" but declines to elaborate
Access to weapons: Denies

PAST MEDICAL HISTORY:
MEDICATIONS including vitamins, herbs, supplements, OTC:
Albuterol inhaler
ALLERGIES: codeine

SUBSTANCE ABUSE HISTORY:
Tobacco: Denies
EtOH: Patient reports that "I used to have a problem" and then
states that he hadn't been drinking at all this semester, until
the past week in the context of the breakup, during which he has
been drinking about a fifth a day, was still actively drinking
when the police arrived
Marijuana: Denies
Illicits: Denies
Rx Abuse: ___
FORENSIC HISTORY:
Arrests: Denies
Convictions and jail terms: Denies
Current status (pending charges, probation, parole): N/A

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY: Declines to answer
 
Physical Exam:
VS: T: 98.7 F, BP: 137/84, HR: 88, R: 16, O2 sat: 97% on RA
General: Young male, fairly well groomed, non malodorous, 
wearing
hospital gown, asking for pants
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: Right ___ knuckle with abrasion, No other rashes,
abrasions, scars, or lesions.

Neurological:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation:
PERRLA
-Visual fields: full to confrontation
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. DTRs: 2+ and symmetrical
throughout. Sensation: Intact to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.
Romberg: Negative.

Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, time, place, situation
Memory: intact to recent and past history
Fund of knowledge: consistent with education
Calculations: $2.75 = 11 quarters
Abstraction: Don't judge a book by its cover = you don't know
what the story is based on the cover
Visuospatial: not assessed
Speech: normal rate, volume, and tone
Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
Appearance: No apparent distress, appears stated age,
appropriately groomed
Behavior: Superficially cooperative, engages, appropriate eye
contact, -PMA/PMR
Mood and Affect: "Fine." / euthymic, full range
Thought Process: linear, coherent, ___ towards
discharge. No LOA.
Thought Content: Denies SI and HI. Denies AH/VH. No evidence of
delusions or paranoia.
Judgment and Insight: Impaired/ impaired

 
Pertinent Results:
___ 08:34AM BLOOD ___ 
___ Plt ___
___ 08:34AM BLOOD ___ 
___ Im ___ 
___
___ 06:30AM BLOOD ___ 
___
___ 08:34AM BLOOD ___ 
___
___ 06:30AM BLOOD ___
___ 06:30AM BLOOD ___
___ 08:34AM BLOOD ___
___ 06:30AM BLOOD ___
___ 06:30AM BLOOD HCG-<5
___ 08:34AM BLOOD ___ 
___
___ 10:10AM URINE ___
___ 10:10AM URINE ___
___ 10:10AM URINE ___
___ 10:10AM URINE ___ 
___

 
 
___ 6:30 am SEROLOGY/BLOOD

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: ___. 

 
Brief Hospital Course:
___ is a ___ ___ student with history of ADHD on 
Adderall, PTSD, rule out alcohol use disorder, adjustment 
disorder with mixed emotional features, asthma, who presented 
after his ___ called ___ out of concern for suicidal 
ideation in setting of recent breakup. He denies any true SI and 
states that his suicidal statements under the influence of 
alcohol were in response to a conflictual relationship. His exam 
is normal at this time and he denies any thoughts of self harm 
or depression. 

1. LEGAL & SAFETY:  
On admission, Mr. ___ signed a conditional voluntary 
agreement (Section 10 & 11) and that legal status remained in 
place throughout admission.  Mr. ___ was also placed on 15 
minute checks status on admission, briefly was changed to 5 min 
checks and was back on 15 minute checks at the time of discharge 
from the unit.  

**Mr. ___ signed a conditional voluntary agreement which 
was accepted. He was then discharged on ___ and was deemed to 
be safe to go home. 
 
2. PSYCHIATRIC:
1.) Adjustment disorder with mixed emotional features; PTSD

During this admission, Mr ___ denied any history of 
depression/mood disorder. He denied problems with sleep, 
concentration, appetite, difficulty with coping with stress. 

We urged Mr ___ to recognize that his hospitalization was a 
result of the interaction between him and his girlfriend. While 
we did not offer any advice on whether or not to continue his 
relationship, we recommended formal couples therapy if they 
decided to get back together. He did not require any psychiatric 
medications while admitted. 

From talking to him we suspect that he had a very chaotic 
childhood and that this lead to development of PTSD. We believe 
that his decision to remain in his conflictual relationship is 
related to a reaction to his childhood trauma. 

We encouraged him to analyze the situations and relationship 
that lead to this admission and recommend outpatient discussion 
with a local therapist. 

His adoptive family lives in ___ but his adoptive mother's sister 
lives locally and has offered to offer social support. 

He can return to school without restriction and was provided a 
letter to explain his absence. 

2.) ADHD - Can continue taking Adderall for school. 

3. SUBSTANCE USE DISORDERS:
1.) ETOH use - Patient stated he "used to have a problem" on 
admission. However, during the admission and on discharge, he 
denied ever having a problem with alcohol abuse and stated that 
he does not drink "during school". On admission, he stated that 
in the context of ___ break and his breakup he was drinking 
"a fifth" a day and was actively drinking when police arrived. 

His ETOH level on admission was 235 and his level of 
consciousness at that time suggested significant tolerance. He 
was monitored on CIWA and had no symptoms of withdrawal during 
the 48 hours during which he was admitted. 

He admits that ETOH may have played a role in his behavior which 
lead to this admission but denies having any alcohol abuse 
issues. We recommended discussion outpatient therapist as well 
for possible alcohol use disorder. 

4. MEDICAL
1.) Asthma - stable. Ordered for PRN albuterol inhaler which he 
did not need. 
Mr. ___ was medically cleared in the ED; no acute  medical 
issues prevented admission to Deac 4.  Additionally, Mr. 
___ has no chronic medical issues requiring attention.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Mr. ___ was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. Mr. ___ often 
attended these groups.  Mr. ___ was visible in the milieu 
but did not contribute to many discussions. He remained in the 
group room for most of the day and appropriately interacted with 
staff and peers.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:

Mr. ___ did not have either an outpatient psychiatrist or 
therapist while admitted on Deac 4, therefore there were no 
outside providers to be contacted.  Mr. ___ was referred to 
an outpatient therapist upon discharge.

Mr. ___ gave verbal and written permission for the team to 
contact her/his family member, adoptive mother ___, who was 
also given an update on Mr. ___ progress while admitted 
and discharge plan. 

#) GUARDIANSHIP: Not applicable.

6. INFORMED CONSENT: Not applicable - no new medications 
started. 

7. RISK ASSESSMENT
On presentation, Mr. ___ was evaluated and felt to be at an 
increased risk of harm to herself.  Mr. ___ static risk 
factors noted at that time include decreased social support in 
___, living with his girlfriend a source of conflict, limited 
financial means, history of abuse/trauma, male gender.  The 
modifiable risk factors identified were as such: no local 
outpatient provider, acute intoxication, limited coping skills.  
These modifiable risk factors were addressed with acute 
stabilization in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments, psychotherapeutic interventions 
(OT groups, SW groups, individual therapy meetings with 
psychiatrists), and presence on a social milieu environment. Mr. 
___ is being discharged with improved protective factors, 
including outpatient therapist appointment.  Overall, based on 
the totality of our assessment at this time, Mr. ___ is not 
at an acutely elevated risk of harm to self nor danger to 
others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ___ XR 30 mg PO DAILY 
2. ___ 15 mg PO NOON 
3. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath  
2.  ___ XR 30 mg PO DAILY  
3.  ___ 15 mg PO NOON  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder with mixed emotional features
ADHD
PTSD
r/o ETOH use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___